US08030497B2
d) 1-Bromo-4-methoxy-2,3-dinitro-benzene
1.0 g (4.3 mmol) 4-bromo-3-nitroanisole is nitrated by dropwise addition of 1.0 ml of a mixture of 0.4 ml nitric acid (100%) and 0.6 ml concentrated sulfuric acid. Stirring is continued for 1 h. After that the reaction mixture is poured on water and extracted (3×) with ethyl acetate. The combined organic layers are washed with water and brine (2×), dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel (hexane:EtOAc=1:1) to afford 630 mg of the title compound as yellow crystals.

reactant | 4-bromo-3-nitroanisole | 4.3 mmol, 1.0 g | BrC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6BrNO3
reactant | nitric acid | 0.4 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 0.6 ml | S(O)(O)(=O)=O | H2O4S
product | 1-Bromo-4-methoxy-2,3-dinitro-benzene | 630 mg | BrC1=C(C(=C(C=C1)OC)[N+](=O)[O-])[N+](=O)[O-] | C7H5BrN2O5
